US07375128B2
(5S,7S)-5-(4-Cyanobenzyl)-3-(3,5-dichlorophenyl)-7-[(3-carbamoylpropionyl)amino]-1,3-diazabicyclo[3.3.0]octane-2,4-dione
A mixture of (5S,7S)-5-(4-cyanobenzyl)-3-(3,5-dichlorophenyl)-7-amino-1,3-diazabicyclo[3.3.0]octane-2,4-dione (82.7 mg), succinamic acid (45.86 mg), EDC (93.12 mg), HOBT (61.24 mg) and DIEA (104.79 μL) in THF (5 mL) was stirred overnight at room temperature. The reaction mixture was concentrated and purified by high performance liquid chromatography (HPLC) (Beckman 5μ C18 column; eluted with a gradient of H2O/MeCN (10-100%)/0.1% TFA) to give 72 mg of the titled compound. MS (m/z) 536 (MNa+).

reactant | (5S,7S)-5-(4-cyanobenzyl)-3-(3,5-dichlorophenyl)-7-amino-1,3-diazabicyclo[3.3.0]octane-2,4-dione | 82.7 mg | C(#N)C1=CC=C(C[C@@]23C(N(C(N3C[C@H](C2)N)=O)C2=CC(=CC(=C2)Cl)Cl)=O)C=C1 | C20H16Cl2N4O2
reactant | succinamic acid | 45.86 mg | C(CCC(=O)N)(=O)O | C4H7NO3
reactant | HOBT | 61.24 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 104.79 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | EDC | 93.12 mg
product | (5S,7S)-5-(4-Cyanobenzyl)-3-(3,5-dichlorophenyl)-7-[(3-carbamoylpropionyl)amino]-1,3-diazabicyclo[3.3.0]octane-2,4-dione | 72 mg | C(#N)C1=CC=C(C[C@@]23C(N(C(N3C[C@H](C2)NC(CCC(N)=O)=O)=O)C2=CC(=CC(=C2)Cl)Cl)=O)C=C1 | C24H21Cl2N5O4
